US06020329
(k) Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
A stirred solution of anisole (0.75ml) and dichloromethane (0.38ml) was cooled to -20° C. and aluminium chloride (19mg) was added. The mixture was stirred at the same temperature for 15min. and then cooled to -40° C., and then a solution of 4-methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate (31mg) in dichloromethane (2.5ml) was added and the mixture stirred at the same temperature for 5min. Trisodium citrate (1.64ml of 0.5M solution) was then added and the mixture stirred for 10 min at room temperature. The aqueous phase was separated and washed twice with dichloromethane. The solution was evaporated and the product isolated by column chromatography of the residue (HP20SS, water with increasing proportions of acetone as eluent). Fractions containing product were combined, evaporated and the residue dissolved in water (3ml) and freeze dried to give the title compound (12mg); vmax (KBr) 1762, 1670 and 1604cm-1 ; δH [(CD3)2SO)]1.50-1.63 (1H, m), 1.90-2.26 (3H, m), 3.30-3.47 (2H, m), 3.65 (3H, s), 3.83 (3H, s), 4.39 (1H, dd, J 3.4, 8.7Hz), 4.98 (1H, d, J 4.8Hz), 5.0 (1H, dd, J 5.1, 9.8Hz), 5.52 (1H, dd, J 4.7, 8.2Hz), 6.75 (1H, s), 7.24 (2H, s) and 9.49 (1H, d, J 8.1Hz).

reactant | anisole | 0.75ml | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminium chloride | 19mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-methoxybenzyl (6R,7R)-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 31mg | COC(=O)[C@H]1CC[C@H](O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(\C(=N/OC)\C=2N=C(SC2)N)=O)=O | C27H29N5O9S2
reactant | Trisodium citrate | 0.5M, 1.64ml | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
solvent | dichloromethane | 2.5ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.38ml | ClCCl | CH2Cl2
product | Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(2S,5R)-5-methoxycarbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 12mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2O[C@H](CC2)C(=O)OC)C(=O)[O-])C1=O)=N/OC.[Na+] | InChI=1S/C19H21N5O8S2.Na/c1-30-18(29)10-4-3-9(32-10)7-5-33-16-12(15(26)24(16)13(7)17(27)28)22-14(25)11(23-31-2)8-6-34-19(20)21-8;/h6,9-10,12,16H,3-5H2,1-2H3,(H2,20,21)(H,22,25)(H,27,28);/q;+1/p-1/b23-11-;/t9-,10+,12+,16+;/m0./s1
